US08648069B2
2-Fluoro-5-((trimethylsilyl)ethynyl)benzonitrile
5-Bromo-2-fluorobenzonitrile (5.01 g, 25.0 mmol), dichlorobis(triphenylphosphine)palladium(II) (652 mg, 0.929 mmol), and copper (J) iodide (413 mg, 2.17 mmol) were combined in triethylamine (15 mL) under an atmosphere of nitrogen. Trimethylsilyl acetylene (4.2 mL, 29.7 mmol) was added and the mixture was heated to 100° C. The mixture solidified and was monitored by LC/MS. After completion, the mixture was diluted with methylene chloride and washed with 1 N HCl. The organic layer was absorbed on silica gel and purified by silica gel chromatography eluting with a gradient of ethyl acetate in hexanes (5-45%) to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.09 (dd, J=6.10, 2.03 Hz, 1H) 7.77-7.97 (m, 1H) 7.54 (t, J=9.15 Hz, 1H) 0.15-0.32 (m, 9H).

reactant | 5-Bromo-2-fluorobenzonitrile | 25.0 mmol, 5.01 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | Trimethylsilyl acetylene | 29.7 mmol, 4.2 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.929 mmol, 652 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper | 2.17 mmol, 413 mg | [Cu] | Cu
product | 2-Fluoro-5-((trimethylsilyl)ethynyl)benzonitrile | FC1=C(C#N)C=C(C=C1)C#C[Si](C)(C)C | C12H12FNSi
